US06420385B1
Step C: 3-Methyl-5-bromo-6-(4-pyridyl)-2-methylthio-4(3H)-pyrimidinone:
3-Methyl-6-(4-pyridyl)-2-methylthio-4(3H)-pyrimidinone (1.00 g 4.29 mmol) was dispersed in acetic acid (24 ml) and to the clear solution Bromine (0.5 ml, 1.5 g 9.38 mmol) was added. The reaction mixture stirred at room temperature for 24 h. The mixture was concentrated and the residue was co-evaporated with toluene until all bromine is removed. The crude compound is ready to use in next step. MS(m/z): 312 and 314. C10H11BrN3OS requir. 311 and 313. 1H-NMR(DMSO-d6):d 8.75 (m, 2H, pyridyl) 8.19 (m, 2H, pyridyl), 3.67 (s, 3H, N—CH3), 2.80 (s, 3H, S—CH3).

reactant | 3-Methyl-6-(4-pyridyl)-2-methylthio-4(3H)-pyrimidinone | 4.29 mmol, 1.00 g | CN1C(=NC(=CC1=O)C1=CC=NC=C1)SC | C11H11N3OS
reactant | Bromine | 9.38 mmol, 0.5 ml, 1.5 g | BrBr | Br2
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 3-Methyl-5-bromo-6-(4-pyridyl)-2-methylthio-4(3H)-pyrimidinone | CN1C(=NC(=C(C1=O)Br)C1=CC=NC=C1)SC | C11H10BrN3OS
